US08314097B2
5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester (0.6 g, 2.0 mmol) is dissolved in THF/water 3:2 (20 mL) and to it is added LiOH (0.17 g, 4.0 mmol). The mixture is stirred at room temperature for 2 h before being neutralized to pH 6 with 1M HCl. The solution is evaporated to dryness to give acid, 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid as a solid. MS (ESI) m/z 288.2, 290.2 (M+H); 1H NMR (400 MHz, MeOD) (ammonium salt) δ ppm 2.64-2.74 (m, 1 H), 2.77-2.86 (m, 1 H), 2.94-3.02 (m, 1 H), 3.74 (ddd, J=13.1, 9.1, 8.0 Hz, 1 H), 6.74 (d, J=8.1 Hz, 1 H), 6.85 (s, 1 H), 7.59 (dd, J=8.1, 1.5 Hz, 1 H), 7.84 (d, J=1.8 Hz, 1 H), 7.91 (s, 1 H).

reactant | 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid methyl ester | 2.0 mmol, 0.6 g | COC(=O)C1(CCC=2N1C=NC2)C2=C(C=C(C=C2)C#N)Cl | C15H12ClN3O2
reactant | LiOH | 4.0 mmol, 0.17 g | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF water | 20 mL | C1CCOC1.O
product | 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | ClC1=C(C=CC(=C1)C#N)C1(CCC=2N1C=NC2)C(=O)O | C14H10ClN3O2
